US08183246B2
2-Amino-4-(4-ethylphenyl)-5-phenyl-3-furonitrile
Cool a mixture of 145 g (603 mmol) 1-(4-ethylphenyl)-2-hydroxy-2-phenylethanone and 51.8 g (784.4 mmol) malononitrile in 2.23 litres DMF to 0° C. and add 53.7 ml (518 mmol) diethylamine, with cooling. After 1 h, heat the reaction mixture to RT and stir for a further 4 h, before adding 1.5 litre water. After 30 min, pour off a large proportion of the water and replace with 750 ml of fresh water. Stir the mixture vigorously, before decanting from the sticky organic residue. Dissolve the residue in ethyl acetate, dry, and concentrate under vacuum, until the product begins to crystallize. Add 450 ml diisopropyl ether, stir and then leave to stand overnight. Filter off the crystalline precipitate with suction, wash twice with 50 ml diisopropyl ether and dry under vacuum. 98.5 g (56.6% of theor.) of the target product is obtained.

reactant | 1-(4-ethylphenyl)-2-hydroxy-2-phenylethanone | 603 mmol, 145 g | C(C)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)O)=O | C16H16O2
reactant | malononitrile | 784.4 mmol, 51.8 g | C(CC#N)#N | C3H2N2
reactant | diethylamine | 518 mmol, 53.7 ml | C(C)NCC | C4H11N
reactant | water | 1.5 litre | O | H2O
reactant | water | 750 ml | O | H2O
solvent | DMF | 2.23 litres | CN(C)C=O | C3H7NO
product | 2-Amino-4-(4-ethylphenyl)-5-phenyl-3-furonitrile | NC=1OC(=C(C1C#N)C1=CC=C(C=C1)CC)C1=CC=CC=C1 | C19H16N2O
